US07419989B2
a. Prepration of 1-chloro-(S)-2-hydroxy-3-(4-methanesulfonylpiperazin-1-yl)propane
(S)-Epichlorohydrin (48.0 mL, 0.612 mol) was added to a stirred solution of piperazine sulfonamide (87.3 g, 0.532 mol) in ethanol (1.33 L) at room temperature. The reaction mixture was stirred for 18 h and the white solid precipitate which formed was collected by filtration and washed with ethanol to afford the title intermediate (107.76 g) as a white solid which was used without further purification. (m/z): [M+H]+ calcd for C8H17ClN2O3S, 257.07; found 257.2. 1H NMR (DMSO-d6): δ (ppm) 2.37 (dd, 1H), 2.45 (dd, 1H), 2.50-2.58 (m, 4H), 2.86 (s, 3H), 3.09 (m, 4H), 3.55 (dd, 1H), 3.65 (dd, 1H), 3.84 (m, 1H), 5.09 (d, 1H).

reactant | (S)-Epichlorohydrin | 0.612 mol, 48.0 mL | C(Cl)[C@@H]1CO1 | C3H5ClO
reactant | piperazine sulfonamide | 0.532 mol, 87.3 g | N1(CCNCC1)S(=O)(=O)N | C4H11N3O2S
reactant | ethanol | 1.33 L | C(C)O | C2H6O
product | 1-chloro-(S)-2-hydroxy-3-(4-methanesulfonylpiperazin-1-yl)propane | 107.76 g | ClC[C@H](CN1CCN(CC1)S(=O)(=O)C)O | C8H17ClN2O3S
